US09328099B2
Methyl 4-(4-carbamoyl-3-(4-(trifluoromethylsulfonyl)phenylamino)-1H-pyrazol-1-yl)-4-(cyanomethyl)piperidine-1-carboxylate
4-[4-Carbamoyl-3-({4-[(trifluoromethyl)sulfonyl]phenyl}amino)-1H-pyrazol-1-yl]-4-(cyanomethyl)piperidinium trifluoroacetate (Intermediate #38-7) (30 mg, 0.053 mmol) was dissolved in DCM (1.0 mL). DIPEA (0.055 mL, 0.32 mmol) was added, followed by methyl chloroformate (0.024 mL, 0.32 mmol). The resulting mixture was allowed to stir at ambient temperature for 30 minutes. The solvent was removed in vacuo and the crude residue was purified by reverse-phase preparative HPLC (MeCN/water, with 0.1% v/v TFA modifier). Desired fractions were identified, combined, and concentrated in vacuo to afford the title compound, Example #27-1, as a solid.

reactant | 4-[4-Carbamoyl-3-({4-[(trifluoromethyl)sulfonyl]phenyl}amino)-1H-pyrazol-1-yl]-4-(cyanomethyl)piperidinium trifluoroacetate | 0.053 mmol, 30 mg | FC(C(=O)[O-])(F)F.C(N)(=O)C=1C(=NN(C1)C1(CC[NH2+]CC1)CC#N)NC1=CC=C(C=C1)S(=O)(=O)C(F)(F)F
reactant | DIPEA | 0.32 mmol, 0.055 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methyl chloroformate | 0.32 mmol, 0.024 mL | ClC(=O)OC | C2H3ClO2
solvent | DCM | 1.0 mL | C(Cl)Cl | CH2Cl2
product | Methyl 4-(4-carbamoyl-3-(4-(trifluoromethylsulfonyl)phenylamino)-1H-pyrazol-1-yl)-4-(cyanomethyl)piperidine-1-carboxylate | C(N)(=O)C=1C(=NN(C1)C1(CCN(CC1)C(=O)OC)CC#N)NC1=CC=C(C=C1)S(=O)(=O)C(F)(F)F | C20H21F3N6O5S
